US04551452
4-[1-(Acetyloxy)ethoxy]-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-Dioxide
By the procedure of Example 5, piroxicam (2.00 g, 6.0 mmol) and alpha-chloroethyl acetate (2.22 g, 18.1 mmol) were converted to chromatographed title product, 1.17 g of yellow solid (2.8 mmol, 46.4%) which gave white crystals (1.08 g) upon crystallization from isopropyl alcohol: mp 161°-162° C.; IR (KBr) 1755, 1677 cm-1 ; 1H NMR (CDCl3) delta 1.72 (d, J=6 Hz, 3H), 1.95 (s, 3H), 3.13 (s, 3H), 6.39 (q, J=6 Hz, 1H), 7.07-7.18 (m, 1H), 7.65-7.96 (m, 5H), 8.30-8.42 (m, 2H), 9.52 (br s, 1H); precise mass calcd for C17H15N3O5S m/e (P+ --C2H4O) 373.0738, found 373.0678.

reactant | piroxicam | 6.0 mmol, 2.00 g | CN1C(=C(C=2C=CC=CC2S1(=O)=O)O)C(=O)NC=3C=CC=CN3 | C15H13N3O4S
reactant | alpha-chloroethyl acetate | 18.1 mmol, 2.22 g | C(C)(=O)OC(C)Cl | C4H7ClO2
product | 4-[1-(Acetyloxy)ethoxy]-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-Dioxide | C(C)(=O)OC(C)OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC2=NC=CC=C2 | C19H19N3O6S
